US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(2,3,5,6-tetrafluorophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (200 mg, 0.613 mmol) and 2,3,5,6-tetrafluorophenol were reacted as starting materials at 150° C. for 12 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless crystalline powder (105.7 mg, 37.8%). Melting point: 172.5-174.5° C. (hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.613 mmol, 200 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 2,3,5,6-tetrafluorophenol | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
product | 3,4-bis(4-methoxyphenyl)-6-(2,3,5,6-tetrafluorophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=C(C(=CC(=C1F)F)F)F | C24H16F4N2O3
